US07612201B2
1-(1-Acetyl-6-benzyloxy-3-methyl-1H-indol-5-yl)-2-bromo-ethanone
The crude product 1-(1-acetyl-6-benzyloxy-3-methyl-1H-indol-5-yl)-2,2-dibromo-ethanone (0.42 g, 0.88 mmol) was suspended in THF (4 ml), followed by the addition of triethylamine (0.12 ml, 0.89 mmol) and (EtO)2P(O)H (0.137 ml, 0.88 mmol). After stirring overnight at room temperature, the reaction was diluted with EtOAc, washed with H2O, brine and dried over MgSO4. The solvent was removed in vacuo and the crude product purified by column chromatography in hexane/EtOAc (1:1) to give the product (0.039 g, 11%). LC/MS: RT=2.830 min. 400/402 (MH+).

reactant | 1-(1-acetyl-6-benzyloxy-3-methyl-1H-indol-5-yl)-2,2-dibromo-ethanone | 0.88 mmol, 0.42 g | C(C)(=O)N1C=C(C2=CC(=C(C=C12)OCC1=CC=CC=C1)C(C(Br)Br)=O)C | C20H17Br2NO3
reactant | triethylamine | 0.89 mmol, 0.12 ml | C(C)N(CC)CC | C6H15N
reactant | (EtO)2P(O)H | 0.88 mmol, 0.137 ml | P(=O)(OCC)OCC | C4H11O3P
solvent | THF | 4 ml | C1CCOC1 | C4H8O
solvent | EtOAc | CCOC(=O)C | C4H8O2
product | 1-(1-Acetyl-6-benzyloxy-3-methyl-1H-indol-5-yl)-2-bromo-ethanone | 0.039 g, 11% | C(C)(=O)N1C=C(C2=CC(=C(C=C12)OCC1=CC=CC=C1)C(CBr)=O)C | C20H18BrNO3
